US06696476B2
Step A: N-(4-Methoxy-2-methyl-phenyl)-2,2-dimethyl-propionamide
To a stirred mixture of 4-methoxy-2-methylphenylamine (15.0 g, 109 mmol) and triethylamine (13.3 g, 131 mmol) in anhydrous THF (350 mL) at 0° C. was added pivaloyl chloride (14.1 mL, 13.8 g, 114 mmol). A white precipitate formed and the suspension was stirred for additional 30 min before water (10 mL) was added. The mixture was stirred for 30 min, THF evaporated and the residue was mixed with a saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The combined extracts were dried (MgSO4), filtered and evaporated to an oil (23.5 g, 97%): LC/MS (+APCI) m/z 222 (M+H).

reactant | 4-methoxy-2-methylphenylamine | 109 mmol, 15.0 g | COC1=CC(=C(C=C1)N)C | C8H11NO
reactant | triethylamine | 131 mmol, 13.3 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 114 mmol, 14.1 mL, 13.8 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | 10 mL | O | H2O
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | N-(4-Methoxy-2-methyl-phenyl)-2,2-dimethyl-propionamide | COC1=CC(=C(C=C1)NC(C(C)(C)C)=O)C | C13H19NO2
